US09234006B2
Intermediate 1. Polymyxin B Nonapeptide
A mixture of Polymyxin B (20 g), immobilised papain (185 ELU/g), potassium phosphate buffer (25 mM; pH 7, 1.25 L), potassium chloride (30 mM), EDTA (10 mM) and cysteine (1 mM) was incubated at 37° C. for 18 h with gentle agitation. The progress of the reaction was monitored by LC-MS using the conditions outlined in Table 1. The immobilized papain was removed by filtration and the filtrate was concentrated in vacuo to leave a solid residue which was re-suspended in 10% aqueous methanol and left at room temperature overnight. The supernatant was decanted and concentrated in vacuo. Polymyxin B nonapeptide was purified from the residue by SPE on C18 silica, eluting with 0-10% aqueous methanol. Evaporation of the appropriate fractions gave the product as a white solid. m/z 482, [M+2H]2+

reactant | Polymyxin B | 20 g | CCC(C)CCCCC(=O)N[C@@H](CCN)C(=O)N[C@@H]([C@@H](C)O)C(=O)N[C@@H](CCN)C(=O)N[C@H]1CCNC(=O)[C@@H](NC(=O)[C@@H](NC(=O)[C@@H](NC(=O)[C@@H](NC(=O)[C@H](NC(=O)[C@H](NC1=O)CCN)CC=2C=CC=CC2)CC(C)C)CCN)CCN)[C@@H](C)O | C56H98N16O13
reactant | potassium phosphate | 25 mM, 1.25 L, pH 7 | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | potassium chloride | 30 mM | [Cl-].[K+]
reactant | EDTA | 10 mM | C(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | C10H16N2O8
reactant | cysteine | 1 mM | N[C@@H](CS)C(=O)O | C3H7NO2S
solvent | methanol | CO | CH4O
product | Polymyxin B Nonapeptide | C[C@H]([C@H]1C(=O)NCC[C@@H](C(=O)N[C@H](C(=O)N[C@H](C(=O)N[C@H](C(=O)N[C@H](C(=O)N[C@H](C(=O)N1)CCN)CCN)CC(C)C)CC=2C=CC=CC2)CCN)NC(=O)[C@H](CCN)NC(=O)[C@H]([C@@H](C)O)N)O | C43H74N14O11
